US05476846
a) Ethyl 4-[2-[[(4-chlorophenyl)sulfonyl]amino]cyclopentyloxy]benzeneacetate
A mixture of 2.5 g (15 mmoles) of methyl 4-hydroxybenzeneacetate, 4 g (30 mmoles) of K2CO3 and 30 ml of DMF is heated to 80° C. A solution of 5 g (14.8 mmoles) of N-(2-bromocyclopentyl)-4-chlorobenzenesulfonamide as in example 5a is added dropwise thereto, in 50 ml of DMF. The mixture is stirred 5 h at 80° C. After cooling, the solid which is present is filtered and rinsed with ethyl acetate. The filtrate which is diluted with water is extracted with ethyl acetate. The organic phase is washed with water, dried over Na2SO4 and concentrated under reduced pressure. The residue which is purified by chromatography on a column of silica (eluant: hexane-ethyl acetate 1/1) gives 6.2 g (yield=99.5%) of a yellow liquid.

reactant | methyl 4-hydroxybenzeneacetate | 15 mmoles, 2.5 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | K2CO3 | 30 mmoles, 4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2-bromocyclopentyl)-4-chlorobenzenesulfonamide | 14.8 mmoles, 5 g | BrC1C(CCC1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C11H13BrClNO2S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Ethyl 4-[2-[[(4-chlorophenyl)sulfonyl]amino]cyclopentyloxy]benzeneacetate | 6.2 g, yield=99.5% | ClC1=CC=C(C=C1)S(=O)(=O)NC1C(CCC1)OC1=CC=C(C=C1)CC(=O)OCC | C21H24ClNO5S
